US07365225B2
5-((3-cyclopentylpropanoyl){[2-(4-{[(4-phenoxybenzyl)amino]-carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}amino)-2-hydroxybenzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride, 3-cyclopentylpropanoyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+ESI): 676.3

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-[4-(chloromethyl)-1,3-thiazol-2-yl]benzoyl chloride | ClCC=1N=C(SC1)C1=CC=C(C(=O)Cl)C=C1 | C11H7Cl2NOS
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 5-((3-cyclopentylpropanoyl){[2-(4-{[(4-phenoxybenzyl)amino]-carbonyl}phenyl)-1,3-thiazol-4-yl]methyl}amino)-2-hydroxybenzoic acid | C1(CCCC1)CCC(=O)N(C=1C=CC(=C(C(=O)O)C1)O)CC=1N=C(SC1)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C39H37N3O6S
